US04202981
7-Amino-4-methyl-2-phenyl-1,8-naphthyridine
2,6-Diaminopyridine (16.4 g., 0.15 mole), 24 g. of benzoylacetone, 75 ml. of acetic acid and 1.5 ml of 96% sulfuric acid was refluxed with stirring for 24 hours. The solution was poured slowly with stirring into 50 g. of sodium hydroxide in 250 ml. of water; the temperature was held 20°-30° by cooling. The tan solid was filtered, washed well with water and dried, 21.8 g. One recrystallization from 100 ml. of 95% ethanol gave 6.9 g. of coarse needles, m.p. 65°-190°; a second recrystallization from 50 ml. of ethanol furnished 2.1 g. (6) of the title compound, m.p. 253°-255°; 1H nmr (deuteriochloroform+DMSO-d6, 60 MHz): δ2.67 (s,3H, CH3), 6.20 (broad exchangeable s, 2H, NH2), 6.92 (d, 1H, H5, J=9 Hz), 7.58 (d,1H, H6), 7.50 (m,3H,meta and para protons on C6H5), 8.30 (m,2H, ortho protons on C6H5).

reactant | 2,6-Diaminopyridine | 0.15 mole, 16.4 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | benzoylacetone | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
reactant | sulfuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Amino-4-methyl-2-phenyl-1,8-naphthyridine | NC1=CC=C2C(=CC(=NC2=N1)C1=CC=CC=C1)C | C15H13N3
